US05389285
A solution of 4'-(hexyloxy)biphenol (8.10 g, 30 mmol), potassium carbonate (8.30 g, 60 mmol), 1,6-dibromohexane (22.0 g, 90 mmol) and acetone (80 mL) was heated to reflux for 24 h. One-half the acetone was removed by distillation and the mixture was poured into tetrahydrofuran:ether, 1:1 (600 mL), and washed with water. The solution was dried over magnesium sulfate and concentrated to a solid. The solid was recrystallized from tetrahydrofuran-ether to give 4'-(hexyloxy)-4-(6-bromohexyloxy)biphenyl (5.0 g, 38%): mp 103-105° C.; NMR 7.4(d, 4H), 6.85(d, 4H), 3.92(t, 4H), 3.4(t, 2H), 2.0-1.2(m, 16H), 0.9(t, 3H).

reactant | 4'-(hexyloxy)biphenol | 30 mmol, 8.10 g | C(CCCCC)OC=1C=C(C(=CC1)O)C=1C(=CC=CC1)O | C18H22O3
reactant | potassium carbonate | 60 mmol, 8.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,6-dibromohexane | 90 mmol, 22.0 g | BrCCCCCCBr | C6H12Br2
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | 4'-(hexyloxy)-4-(6-bromohexyloxy)biphenyl | 5.0 g, 38% | C(CCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCBr | C24H33BrO2
